US05663042
A) Preparation of 1-bromo-10,11-dihydroxyundecane (compound J)
Trifluoroacetic anhydride (27.52 g, 0.139 moles) and hydrogen peroxide 30% (11.83 g, 0.348 moles) in dichloromethane (120 mls), were added to a stirred solution of 1-bromoundec-10-ene (24.50 g, 0.105 moles) and triethylammonium trifluoroacetate (11.38 g, 0.053 moles) in dichloromethane (125 mls). Stirring was continued for one hour after the addition was complete, after which time the solvent was evaporated. The residue was taken up into ether and washed with water and 2M sodium carbonate. The organics were then dried (MgSO4), filtered and evaporated. The solid was then triturated with 40-60 petrol and filtered to give the product as a white solid. (5.3 g, 20%).

reactant | Trifluoroacetic anhydride | 0.139 moles, 27.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrogen peroxide | 0.348 moles, 11.83 g | OO | H2O2
reactant | 1-bromoundec-10-ene | 0.105 moles, 24.50 g | BrCCCCCCCCCC=C | C11H21Br
reactant | triethylammonium trifluoroacetate | 0.053 moles, 11.38 g | FC(C(=O)[O-])(F)F.C(C)[NH+](CC)CC
solvent | dichloromethane | 120 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 125 mls | ClCCl | CH2Cl2
product | 1-bromo-10,11-dihydroxyundecane | BrCCCCCCCCCC(CO)O | C11H23BrO2
